US04859683
To a solution of 5.46 g (16.8 mmol) of methyl 2,2-dimethyl-6-acetylamino-7-chloro-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylate in 10 ml of methanol is added 10 ml of a 10% aqueous sodium hyroxide solution in a single portion at room temperature. The solution is heated to reflux and refluxing maintained for 2 hours. After cooling, methanol is removed in vacuo and the residue is diluted with water. The pH of this solution is adjusted to 7 with 1N HCl. The neutral solution is extracted with CH2Cl2 and the combined organic extracts are dried over MgSO4, filtered and concentrated. Flash chromatography (30% EtOAc/hexanes) provides 2,2-dimethyl-6-amino-7-chloro-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylic acid.

reactant | methyl 2,2-dimethyl-6-acetylamino-7-chloro-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylate | 16.8 mmol, 5.46 g | CC1(OC2=C(CCC1)C(=C(C=C2C(=O)OC)Cl)NC(C)=O)C | C16H20ClNO4
reactant | sodium hyroxide | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2,2-dimethyl-6-amino-7-chloro-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylic acid | CC1(OC2=C(CCC1)C(=C(C=C2C(=O)O)Cl)N)C | C13H16ClNO3
